US07015218B1
(2) Ethyl 1-(4-fluorophenyl)-3-methylpyrazole-4-carboxylate
To a tetrahydrofuran solution (50 ml) containing ethyl 5-amino]1-(4-fluorophenyl)-3-methylpyrazole-4-carboxylate (10.5 g) was added isoamyl nitrite (14 g) and the mixture was stirred at a refluxing temperature for 2 h. The mixture was treated with aqueous potassium carbonate solution and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure. n-Hexane was added to the obtained residue to allow crystallization. The crystals were recrystallized from a mixed solvent of ethyl acetate-n-hexane to give the title compound (7.8 g), melting point: 103–104° C.

reactant | 1-(4-fluorophenyl)-3-methylpyrazole-4-carboxylate | 10.5 g | FC1=CC=C(C=C1)N1N=C(C(=C1)C(=O)[O-])C
reactant | isoamyl nitrite | 14 g | N(=O)OCCC(C)C | C5H11NO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | Ethyl 1-(4-fluorophenyl)-3-methylpyrazole-4-carboxylate | 7.8 g | FC1=CC=C(C=C1)N1N=C(C(=C1)C(=O)OCC)C | C13H13FN2O2
